US07704991B2
2-(3,8-Diaza-bicyclo[3.2.1]oct-3-yl)-6-nitro-quinoline free base
A mixture of 3-(6-nitro-quinolin-2-yl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (1.0 g, 2.6 mmol), trifluoroacetic acid (2.97 g, 26.0 mmol) and dichloromethane (10 ml) was stirred for 15 h. The mixture was made alkaline by adding concentrated ammonia. The mixture was extracted with dichloromethane, dried and evaporated. Yield 0.50 g (90%) Mp 185° C. decomp.

reactant | 3-(6-nitro-quinolin-2-yl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 2.6 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C2=NC1=CC=C(C=C1C=C2)[N+](=O)[O-] | C20H24N4O4
reactant | trifluoroacetic acid | 26.0 mmol, 2.97 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | N | H3N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(3,8-Diaza-bicyclo[3.2.1]oct-3-yl)-6-nitro-quinoline | C12CN(CC(CC1)N2)C2=NC1=CC=C(C=C1C=C2)[N+](=O)[O-] | C15H16N4O2
